US07183300B2
Step 1. 4-((isopropyl(methyl)amino)methyl)thiazol-2-amine
N-methyl-N-isopropylamine (3.02 g, 41 mmol) is added to a suspension of 2-amino-4-chloromethylthiazole hydrochloride (0.185 g, 1.0 mmol) in 15 mL ethanol. The reaction mixture is allowed to stand at room temperature for 4 days. The mixture was poured into aqueous potassium carbonate. The resulting aqueous suspension is extracted with dichloromethane. The organic layer is dried over MgSO4 and condensed to brown oil.

reactant | N-methyl-N-isopropylamine | 41 mmol, 3.02 g | CNC(C)C | C4H11N
reactant | 2-amino-4-chloromethylthiazole hydrochloride | 1.0 mmol, 0.185 g | Cl.NC=1SC=C(N1)CCl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 4-((isopropyl(methyl)amino)methyl)thiazol-2-amine | C(C)(C)N(C)CC=1N=C(SC1)N | C8H15N3S
